US06605200B1
Synthesis of 4-bromo-2,2′-bipyridyl-N-oxide:
To 4-nitro-2,2′-bipyridyl-N-oxide (Wenkert, D.; Woodward, R. B. J. Org. chem. 48, 283(1983)) (5 g) dissolved in 30 mL acetic acid in a 100 ml round bottom flask was added 16 mL acetyl bromide. The yellow mixture was refluxed for 1.5 h and then rotovaporated to dryness. The resulting light yellow solid was sufficiently pure enough for the next step without further purification. Yield: 95%

reactant | 4-nitro-2,2′-bipyridyl-N-oxide | 5 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C1=NC=CC=C1 | C10H7N3O3
reactant | acetyl bromide | 16 mL | C(C)(=O)Br | C2H3BrO
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2,2′-bipyridyl-N-oxide | Yield: 95% | BrC=1C=C([N+](=CC1)[O-])C1=NC=CC=C1 | C10H7BrN2O
